US08334410B2
Production of 6-fluoro-4-methyl-3-mercaptoaniline
156.9 g (2.4 mol) of zinc, 500 ml of ethanol and then 77 g (0.3 mol) of 4-fluoro-6-methyl-3-nitrobenzenesulfonyl chloride were placed in a 2-liter eggplant-shaped flask equipped with a mechanical stirrer, a thermometer and a dropping funnel. Thereinto was dropped 500 g (5 mol) of hydrochloric acid in a water bath so that the temperature of the reaction system did not exceed 50° C., followed by stirring at 75° C. for 6 hours. Ethanol was distilled off under reduced pressure; the residue was cooled to room temperature; sodium bicarbonate was added to neutralize the reaction system; extraction was conducted twice with ethyl acetate; the ethyl acetate layer was washed with water and then with a saturated aqueous sodium chloride solution. The ethyl acetate layer was dried with anhydrous sodium sulfate and subjected to distillation under reduced pressure to distil off ethyl acetate to obtain 41 g of a title compound at a yield of 87%.

reactant | 4-fluoro-6-methyl-3-nitrobenzenesulfonyl chloride | 0.3 mol, 77 g | FC1=C(C=C(C(=C1)C)S(=O)(=O)Cl)[N+](=O)[O-] | C7H5ClFNO4S
reactant | hydrochloric acid | 5 mol, 500 g | Cl | ClH
catalyst | zinc | 2.4 mol, 156.9 g | [Zn] | Zn
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-fluoro-4-methyl-3-mercaptoaniline | 41 g, yield of 87% | FC1=CC(=C(C=C1N)S)C | C7H8FNS
